US06884774B2
To a solution of tert-butyl 4-cyclohexyl-4-hydroxy-1-piperidinecarboxylate (7.26 g) in DMF (70 ml) was added sodium hydride (60% in oil) (2.05 g) with stirring under ice-cooling. The mixture was stirred at ambient temperature for 1 hour. To the suspension was added methyl iodide (4.79 ml) and the mixture was stirred at ambient temperature overnight. The reaction mixture was poured into ice-water (300 ml) and extracted three times with ethyl acetate (200 ml). The extracts were collected, washed twice with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (400 ml) eluting with a mixture of n-hexane and ethyl acetate (4:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give tert-butyl 4-cyclohexyl-4-methoxy-1-piperidinecarboxylate (6.77 g).

reactant | tert-butyl 4-cyclohexyl-4-hydroxy-1-piperidinecarboxylate | 7.26 g | C1(CCCCC1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H29NO3
reactant | sodium hydride | 2.05 g | [H-].[Na+]
reactant | methyl iodide | 4.79 ml | CI | CH3I
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-cyclohexyl-4-methoxy-1-piperidinecarboxylate | 6.77 g | C1(CCCCC1)C1(CCN(CC1)C(=O)OC(C)(C)C)OC | C17H31NO3
